US06977255B2
Methyl 3-phenoxy-2-hydroxybenzoate
To a mixture of methyl 2,3-dihydroxybenzoate (1.50 g, 8.9 mmol), phenylboronic acid (1.08 g, 8.9 mmol) and copper acetate (1.62 g, 8.9 mmol) suspended in dichloromethane (100 ml) was added triethylamine (6.15 ml, 44.5 mmol) and the mixture was stirred at room temperature for 96 h. The solvent was removed and the product chromatographed through a silica column using a gradient of 0-10% methanol in dichloromethane. The product was obtained as a pale yellow oil (0.25 g).

reactant | methyl 2,3-dihydroxybenzoate | 8.9 mmol, 1.50 g | OC1=C(C(=O)OC)C=CC=C1O | C8H8O4
reactant | phenylboronic acid | 8.9 mmol, 1.08 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 44.5 mmol, 6.15 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | copper acetate | 8.9 mmol, 1.62 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Methyl 3-phenoxy-2-hydroxybenzoate | 0.25 g | O(C1=CC=CC=C1)C=1C(=C(C(=O)OC)C=CC1)O | C14H12O4
